US05128327
A solution of 7-methyl-2-propyl-3-[[4-(2-cyanopyridin-3-yl)phenyl]methyl]imidazo[4,5-b]pyridine (300 mg, 0.817 mmol) and trimethylstannylazide (504mg, 2.45 mmol) in toluene (3 mL) was heated to reflux for 36 h. The mixture was cooled to rt, concentrated, then purified by flash chromatography on SiO2 (80/20/1 CH2Cl2 /MeOH/NH4OH) to give 7-methyl-2-propyl-3-[[4-[2-(1H-tetrazol-5-yl)-3-pyridinyl]phenyl]methyl]imidazo [4,5-b]pyridine as a white solid.

reactant | 7-methyl-2-propyl-3-[[4-(2-cyanopyridin-3-yl)phenyl]methyl]imidazo[4,5-b]pyridine | 0.817 mmol, 300 mg | CC1=C2C(=NC=C1)N(C(=N2)CCC)CC2=CC=C(C=C2)C=2C(=NC=CC2)C#N | C23H21N5
reactant | trimethylstannylazide | 2.45 mmol, 504mg | C[Sn](C)(C)N=[N+]=[N-]
solvent | toluene | 3 mL | C1(=CC=CC=C1)C | C7H8
product | 7-methyl-2-propyl-3-[[4-[2-(1H-tetrazol-5-yl)-3-pyridinyl]phenyl]methyl]imidazo [4,5-b]pyridine | CC1=C2C(=NC=C1)N(C(=N2)CCC)CC2=CC=C(C=C2)C=2C(=NC=CC2)C2=NN=NN2 | C23H22N8
